US06599908B1
3-Methoxy-7,8-dihydro-5(6H)-isoquinolinone oxime
A solution of 3-methoxy-5,6,7,8-tetrahydroisoquinoline (1.40 g, 8.59 mmol) in THF (20 ml) was added to a solution of potassium tert-butoxide (1.92 g, 17.18 mmol) in THF (25 ml) and the resulting mixture was stirred at room temperature for 18 h, then cooled to 0° and tert-butyl nitrite (3.05 ml, 2.65 g, 27.77 mmol) added dropwise. After stirring for 18 h at room temperature brine was added and the mixture extracted three times with ethyl acetate. The combined organic phase was dried (MgSO4) and concentrated to afford the title compound (1.50 g) as a flesh coloured solid m.p. 175-178° MS (ES+) 193 (MH+).

reactant | 3-methoxy-5,6,7,8-tetrahydroisoquinoline | 8.59 mmol, 1.40 g | COC=1N=CC=2CCCCC2C1 | C10H13NO
reactant | potassium tert-butoxide | 17.18 mmol, 1.92 g | CC(C)([O-])C.[K+]
reactant | tert-butyl nitrite | 27.77 mmol, 3.05 ml, 2.65 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-Methoxy-7,8-dihydro-5(6H)-isoquinolinone oxime | 1.50 g | COC=1N=CC=2CCCC(C2C1)=NO | C10H12N2O2
